US08258144B2
Methyl 2-amino-2-(1-(5-fluoro-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)pyrimidin-4-yl)piperidin-4-yl)acetate
The titled compound was synthesized analogously as compound 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one, by using methyl 2-(tert-butoxycarbonylamino)-2-(piperidin-4-yl)acetate. MS 429.3 (M+H); UV 207.0, 274.2 nm

reactant | 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one | NCC1CCN(CC1)C1=NC(=NC=C1F)NC=1C=C2CCC(NC2=CC1)=O | C19H23FN6O
reactant | methyl 2-(tert-butoxycarbonylamino)-2-(piperidin-4-yl)acetate | C(C)(C)(C)OC(=O)NC(C(=O)OC)C1CCNCC1 | C13H24N2O4
product | Methyl 2-amino-2-(1-(5-fluoro-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)pyrimidin-4-yl)piperidin-4-yl)acetate | NC(C(=O)OC)C1CCN(CC1)C1=NC(=NC=C1F)NC=1C=C2CCC(NC2=CC1)=O | C21H25FN6O3
